US09328099B2
1-[3-(Cyanomethyl)-1-methylazetidin-3-yl]-3-(phenylamino)-1H-pyrazole-4-carboxamide
To a suspension of 3-[4-carbamoyl-3-(phenylamino)-1H-pyrazol-1-yl]-3-(cyanomethyl)azetidinium trifluoroacetate (Intermediate #38-2) (50 mg, 0.17 mmol) in DCE (2.0 mL) was added sodium triacetoxyborohydride (79 mg, 0.37 mmol), followed by formaldehyde (0.050 mL, 0.67 mmol, 37 wt % in water). The resulting mixture was allowed to stir for 1 hour before saturated aqueous NaHCO3 solution was added and the resulting mixture was extracted with EtOAc (3×). The combined organic layers were dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The residue was purified by MPLC on silica gel (using a gradient elution of 0-100%, EtOAc/hexanes) to afford the title compound, Example #20.

reactant | 3-[4-carbamoyl-3-(phenylamino)-1H-pyrazol-1-yl]-3-(cyanomethyl)azetidinium trifluoroacetate | 0.17 mmol, 50 mg | FC(C(=O)[O-])(F)F.C(N)(=O)C=1C(=NN(C1)C1(C[NH2+]C1)CC#N)NC1=CC=CC=C1
reactant | sodium triacetoxyborohydride | 0.37 mmol, 79 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | formaldehyde | 0.67 mmol, 0.050 mL | C=O | CH2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCE | 2.0 mL | ClCCCl | C2H4Cl2
product | 1-[3-(Cyanomethyl)-1-methylazetidin-3-yl]-3-(phenylamino)-1H-pyrazole-4-carboxamide | C(#N)CC1(CN(C1)C)N1N=C(C(=C1)C(=O)N)NC1=CC=CC=C1 | C16H18N6O
